US06235731B1
1) Synthesis of N-[2-(3-phenylpropan-1-yl)-2,3-dihydro-1H-isoindol-5-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
To a solution of 0.401 g (1.011 mM) of N-[2-(3-phenylpropan-1-yl)-2,3-dihydro-1H-isoindol-5-ylmethyl]-phthalimide in 20 ml of ethanol was added 0.05 ml (1.11 mM) of hydrazine monohydrate and the mixture was refluxed for 2 hours. After cooling to room temperature, the precipitate that had formed was filtered off and washed with ethanol. From the pooled filtrate, the solvent was distilled off. The resulting crude N-[2-(3-phenylpropan-1-yl)-2,3-dihydro-1H-isoindol-5-yl]methylamine was not purified but used as it was in the next reaction. To a solution of 0.22 g (1.21 mM) of 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid, the above crude N-t2-(3-phenylpropan-1-yl)-2,3-dihydro-1H-isoindol-5-yl]methylamine, and 0.17 ml (1.21 mM) of triethylamine in 20 ml of N,N-dimethylformamide was added 0.18 ml (1.21 mM) of diethyl cyanophosphate dropwise at room temperature with constant stirring and the mixture was stirred at the prevailing temperature for 3 days. This reaction mixture was poured in aqueous solution of sodium hydrogen carbonate and extracted with 3 portions of ethyl acetate. The organic layers were pooled and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate to ethyl acetate-methanol=9/1) to provide the title compound.

reactant | N-[2-(3-phenylpropan-1-yl)-2,3-dihydro-1H-isoindol-5-ylmethyl]-phthalimide | 1.011 mM, 0.401 g | C1(=CC=CC=C1)CCCN1CC2=CC=C(C=C2C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C26H24N2O2
reactant | hydrazine monohydrate | 1.11 mM, 0.05 ml | O.NN
reactant | 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid | 1.21 mM, 0.22 g | N=1C=C2C=C(SC3=CC=CC1N23)C(=O)O | C10H6N2O2S
reactant | methylamine | CN | CH5N
reactant | diethyl cyanophosphate | 1.21 mM, 0.18 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.21 mM, 0.17 ml | C(C)N(CC)CC | C6H15N
product | N-[2-(3-phenylpropan-1-yl)-2,3-dihydro-1H-isoindol-5-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C1(=CC=CC=C1)CCCN1CC2=CC=C(C=C2C1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C28H26N4OS
